US06949542B2
{5-Chloro-4-methyl-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-chloro-4-methyl-phenyl)-carbamic acid tert-butyl ester (Example J21) (257 mg, 1.0 mmol) and 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester (Example K2) (297 mg, 1.0 mmol) according to the general procedure M. Obtained as an off-white foam (370 mg, 77%).

reactant | (2-amino-5-chloro-4-methyl-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 257 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)C)N)=O | C12H17ClN2O2
reactant | 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester | 1.0 mmol, 297 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O | C18H19NO3
product | {5-Chloro-4-methyl-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)C)NC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O)=O | C26H26ClN3O4
